US08487105B2
Preparation of Pitavastatin Free Acid
From pitavastatin tertiary butyl ester: 50 g of pitavastatin tert-butyl ester was taken in 250 ml of methanol and stirred for 10 minutes at 25° C. 6 g of sodium hydroxide is dissolved in 60 ml of water and slowly added to the reaction mixture. Stirred the reaction mixture to 2 hrs at 25°. Distilled off the solvent completely under reduced pressure. To the obtained solid added 50 ml of dichloro methane and stirred for 10 minutes. Cooled the reaction mixture to 0° C. and adjusted the pH to 3.0 with 20% aqueous HCl solution. 60 g of sodium chloride is added to the reaction mixture and stirred for 15 minutes. Raised the temperature to 25° C. and stirred for 30 minutes. Filtered the solid precipitated. Water was added to the solid and stirred for 10 minutes. Filtered the solid and washed with water. Dried the obtained solid to get the title compound.

reactant | pitavastatin tert-butyl ester | 50 g | CC(C)(C)OC(=O)CC(CC(C=CC1=C(C2=CC=CC=C2N=C1C3CC3)C4=CC=C(C=C4)F)O)O | C29H32FNO4
reactant | sodium hydroxide | 6 g | [OH-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | Pitavastatin | C=1C=CC2=C(C1)C(=C(C(=N2)C3CC3)/C=C/[C@H](C[C@H](CC(=O)O)O)O)C=4C=CC(=CC4)F | C25H24FNO4
